US08686048B2
Intermediate 34: 3′-(difluoromethoxy)-3,5-difluorobiphenyl-4-amine
The title compound (144 mg) was prepared from 4-bromo-2,6-difluoroaniline (200 mg, 0.96 mmol) and 3-(difluoromethoxy)phenylboronic acid (234 mg, 1.25 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.49 (d, J 7.9, 1H), 7.43-7.39 (m, 2H), 7.38-7.30 (m, 2H), 7.32 (t, J 74, 1H), 7.06 (dd, J 1.8, 7.9, 1H), 5.42 (s, 2H).

reactant | 4-bromo-2,6-difluoroaniline | 0.96 mmol, 200 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-(difluoromethoxy)phenylboronic acid | 1.25 mmol, 234 mg | FC(OC=1C=C(C=CC1)B(O)O)F | C7H7BF2O3
product | 3′-(difluoromethoxy)-3,5-difluorobiphenyl-4-amine | 144 mg | FC(OC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)F)F | C13H9F4NO
